US08440662B2
Step 1: 3-Amino-5-bromo-pyridine-2-carboxylic acid amide
To a 100 mL round bottom flask, Raney Nickel (2.5 g) and EtOH (150 mL) were added. To the same flask was added 5-bromo-3-nitropyridine-2-carbonitrile (5 g, 0.0219 mol). The reaction mass was stirred under hydrogen afor 14 h at ambient temperature. The catalyst was removed by filtration. The clear filtrate was evaporated to provide the crude product. The crude was subjected to column chromatography (60-120 silica gel, 30% ethyl acetate in hexane) to provide the title compound as a light yellow solid [1.1 g, 23%]. 1H NMR (300 MHz, DMSO-d6): δ 7.89 (brs, 1H), 7.79 (d, J=1.8 Hz, 1H), 7.40 (brs, 1H), 7.38 (d, J=1.8 Hz, 1H), 7.04 (brs, 2H): LC-MS (ESI): Calculated mass: 215.0; Observed mass: 216.8 [M+H]+ (RT: 0.38 min).

reactant | EtOH | 150 mL | CCO | C2H6O
reactant | 5-bromo-3-nitropyridine-2-carbonitrile | 0.0219 mol, 5 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Raney Nickel | 2.5 g | [Ni] | Ni
solvent | hexane | CCCCCC | C6H14
product | 3-Amino-5-bromo-pyridine-2-carboxylic acid amide | 1.1 g, 23% | NC=1C(=NC=C(C1)Br)C(=O)N | C6H6BrN3O
